US07867629B2
Four point three grams (32 mmol) of aluminum chloride was placed into 30 milliliter of 1,2-dichloroethane and a solution made by dissolving 2.0 g (25 mmol) of acetyl chloride, subsequently 5.0 g (21 mmol) of 4-bromo biphenyl into 20 milliliter of 1,2-dichloroethane was added while cooling with ice. The mixed solution was stirred as it is while cooling with ice for 4 hours. After completion of the reaction, adding water and an extraction was carried out using dichloro-methane. Further, washing with water, dried with the use of sodium sulfate. Removing the solvent by distillation, 5.9 g of crude 1-(4′-bromo-biphenyl-4-yl)-ethanone was obtained.

reactant | aluminum chloride | 32 mmol, three grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,2-dichloroethane | 30 milliliter | ClCCCl | C2H4Cl2
reactant | acetyl chloride | 25 mmol, 2.0 g | C(C)(=O)Cl | C2H3ClO
reactant | 4-bromo biphenyl | 21 mmol, 5.0 g | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | 1,2-dichloroethane | 20 milliliter | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | 1-(4′-bromo-biphenyl-4-yl)-ethanone | 5.9 g, yield: 89% | BrC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=O | C14H11BrO
